US08404650B2
Doxorubicin hydrochloride (40 mg, 69 μmol) formulated with lactose (clinical sample) was dissolved in 100 mL, of saturated sodium carbonate/sodium bicarbonate buffer, pH 8.5. The aqueous solution was then extracted three times with 250 mL of chloroform. The chloroform extracts were combined, dried over sodium sulfate, filtered, and the chloroform was removed by rotary evaporation yielding doxorubicin as the free base. Doxorubicin free base (30 mg, 55 μmol) was dissolved in 17 mL of deuteriochloroform (3.7 mM) that had been dried over 4 Å molecular sieves for at least 24 h, and the solution was degassed with argon. To this solution, 10 mg of paraformaldehyde (30% by weight of doxorubicin) was added and the solution was allowed to stir in the dark at ambient temperature (25 to 28° C.). Progress of the reaction was followed by 1H NMR and additional paraformaldehyde (10 mg) was added at 2 and 4 days if further progress was not observed. After 7 days, the reaction was complete as determined by observation of appearance of oxazolidine doublets at 4.31 ppm and 4.68 ppm and shift of the peak for the 5′-methyl from 1.36 ppm to 1.34 ppm. The reaction mixture was filtered to remove excess paraformaldehyde and solvent removed by rotary evaporation to dryness followed by evacuation (approx. 0.05 Torr) for 30 min to give 22 mg of Doxaz (40 mmol, 73% from doxorubicin free base) isolated as a red film. Product was characterized and analyzed for purity by 500 MHz 1H NMR in chloroform-d (>90% pure). Positive ion electrospray mass spectrometry of a solution in THF showed a doubly-charged ion at m/z 278.8 ((M+2H+)/2, 100% rel. intensity, calc 278.8). HPLC shows a peak for Doxaz at 6.6 min (Doxorubicin elutes at 4.7 min); HPLC was not reliable for product purity because of some hydrolysis to Doxorubicin during elution.

reactant | Doxorubicin hydrochloride | 69 μmol, 40 mg | C[C@H]1[C@H]([C@H](C[C@@H](O1)O[C@H]2C[C@@](CC=3C2=C(C4=C(C3O)C(=O)C5=CC=CC(=C5C4=O)OC)O)(C(=O)CO)O)N)O.Cl
reactant | lactose | OC1[C@H](O)[C@@H](O)[C@H](O[C@H]2[C@H](O)[C@@H](O)[C@@H](O)[C@H](O2)CO)[C@H](O1)CO | C12H22O11
solvent | sodium carbonate sodium bicarbonate | C([O-])([O-])=O.[Na+].[Na+].C([O-])(O)=O.[Na+]
product | doxorubicin | C[C@H]1[C@H]([C@H](C[C@@H](O1)O[C@H]2C[C@@](CC=3C2=C(C4=C(C3O)C(=O)C5=CC=CC(=C5C4=O)OC)O)(C(=O)CO)O)N)O | C27H29NO11
